US08710043B2
(S)—N-((3-Fluoropyridin-2-yl)(4-(trifluoromethyl)phenyl)methyl)-2-methoxypyrimidine-5-carboxamide
To a solution of 2-methoxypyrimidine-5-carboxylic acid (80 mg, 0.519 mmol), DIPEA (0.25 mL, 1.435 mmol) in toluene (3 mL) was added DPPA (0.19 mL, 0.882 mmol). The reaction was stirred at 80° C. for 2 hours. (S)-(3-fluoropyridin-2-yl)(4-(trifluoromethyl)phenyl)methanamine dihydrochloride (167 mg, 0.487 mmol) was then added as a solid in one portion. After 24 hours, the reaction was concentrated in vacuo and the residue was adsorbed onto a plug of silica gel and chromatographed through a Redi-Sep® pre-packed silica gel column (12 g), eluting with 0% to 80% EtOAc in hexane, to provide the title compound as an off-white solid. 1H NMR (DMSO-d6, 400 MHz) δ ppm 9.02 (d, J=4.7 Hz, 1H), 8.97 (d, J=8.6 Hz, 1H), 8.30 (d, J=7.8 Hz, 1H), 7.63-7.77 (m, 3H), 7.54 (d, J=8.2 Hz, 2H), 7.39 (s, 1H), 7.01 (s, 1H), 6.66 (d, J=8.6 Hz, 1H), 3.93 (s, 3H) MS (ESI pos. ion) m/z: 407.0 (M+H).

reactant | 2-methoxypyrimidine-5-carboxylic acid | 0.519 mmol, 80 mg | COC1=NC=C(C=N1)C(=O)O | C6H6N2O3
reactant | DIPEA | 1.435 mmol, 0.25 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | DPPA | 0.882 mmol, 0.19 mL | C=1C=CC(=CC1)P(=O)(C=2C=CC=CC2)N=[N+]=[N-] | C12H10N3OP
reactant | (S)-(3-fluoropyridin-2-yl)(4-(trifluoromethyl)phenyl)methanamine dihydrochloride | 0.487 mmol, 167 mg | Cl.Cl.FC=1C(=NC=CC1)[C@@H](N)C1=CC=C(C=C1)C(F)(F)F
solvent | toluene | 3 mL | C1(=CC=CC=C1)C | C7H8
product | (S)—N-((3-Fluoropyridin-2-yl)(4-(trifluoromethyl)phenyl)methyl)-2-methoxypyrimidine-5-carboxamide | FC=1C(=NC=CC1)[C@@H](NC(=O)C=1C=NC(=NC1)OC)C1=CC=C(C=C1)C(F)(F)F | C19H14F4N4O2
